US04983596
To a solution of {2S,4R)-1-benzyloxycarbonyl-2-(2-oxopropyl)oxymethyl-4-methanesulfonyloxypyrrolidine (12 g) in ethanol (120 ml) was added by portions sodium borohydride (2.4 g) at 0° C. After 7 hours, to the reaction mixture was added dropwise acetone (20 ml) carefully at 0° C. and the solvent was evaporated in vacuo. To the resultant residue were added ethyl acetate (200 ml) and water (100 ml), the organic layer was separated, washed with brine (100 ml) and dried over magnesium sulfate. Evaporation of the solvent gave a residue, which was chromatographed on silica gel (500 ml) eluting with 5% methanol in dichloromethane (V/V) gave (2S,4R)-1-benzyloxycarbonyl-2-(2-hydroxypropyl)oxymethyl-4-methanesulfonyloxypyrrolidine (7.3 g).

reactant | {2S,4R)-1-benzyloxycarbonyl-2-(2-oxopropyl)oxymethyl-4-methanesulfonyloxypyrrolidine | 12 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(C)=O | C17H23NO7S
reactant | sodium borohydride | 2.4 g | [BH4-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | (2S,4R)-1-benzyloxycarbonyl-2-(2-hydroxypropyl)oxymethyl-4-methanesulfonyloxypyrrolidine | 7.3 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)COCC(C)O | C17H25NO7S
